US05703096
33(a) 5-(4-{2-[1-(2-Phenylsulfonyl-5-pyridyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 640 mg of 2-[1-(2-phenylsulfonyl-5-pyridyl)ethylideneaminooxy]ethanol (prepared as described in Preparation 33), 907 mg of 5-(4-hydroxy-benzyl)-3-tritylthiazolidine-2,4-dione, 550 mg of triphenylphosphine and 365 mg of diethyl azodicarboxylate, 500 mg of the title compound were obtained as a foam-like solid.

reactant | 2-[1-(2-phenylsulfonyl-5-pyridyl)ethylideneaminooxy]ethanol | 640 mg | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)C(C)=NOCCO | C15H16N2O4S
reactant | 5-(4-hydroxy-benzyl)-3-tritylthiazolidine-2,4-dione | 907 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 550 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 365 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(4-{2-[1-(2-Phenylsulfonyl-5-pyridyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione | 500 mg | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)C(C)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C44H37N3O6S2
